US07101899B1
N-[4-[2-amino-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]-N-benzylamine
A mixture of [5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine (0.29 g, 1.0 mmol) and benzylamine (1.2 mL, 11 mmol) was stirred at 150° C. for 3 hours. After the reaction mixture was cooled to room temperature, a saturated aqueous solution of sodium hydrogencarbonate (20 mL) was added, the resulting mixture was extracted with ethyl acetate and extract was washed with water. This extract was dried and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate, 1:1) to obtain 0.16 g (yield 41%) of the title compound.

reactant | [5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine | 1.0 mmol, 0.29 g | FC1=NC=CC(=C1)C1=C(N=C(S1)N)C1=CC(=CC=C1)C | C15H12FN3S
reactant | benzylamine | 11 mmol, 1.2 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | sodium hydrogencarbonate | 20 mL | C(O)([O-])=O.[Na+]
product | N-[4-[2-amino-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]-N-benzylamine | 0.16 g, yield 41% | NC=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)NCC1=CC=CC=C1 | C22H20N4S
